Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Headache, Unable To Swallow 
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms. ___ is a ___ year old right handed woman with a history 
of
COPD, systolic CHF, and hypothyroidism who presents with one 
week
of worsening gait and drooling. Per the patient, she notes
approximately one week ago having some coughing fits where she
"may have aspirated" and subsequently more drooling and 
coughing.
She notes some worsening of gait without any vertiginous
symptoms, as well as some dyspnea on exertion which has since
resolved.
Per the patient, her gait has changed from prior to the coughing
spell which was not in the setting of allergic reaction, 
illness,
trauma, or other precipitating factors. The patient noted that
her gait is almost as if she cannot tell her legs to do what she
wants; that she can ambulate, but there is unsteadiness with
walking. She walks independantly without the use of appliances
at home at a baseline.
Of note, the patient has had extensive workup over the course of
the past ___ years from the onset of with complex neurological
disease including personality changes, ataxia, dyspnea on
exertion, and cognitive changes. Per the daughter who was not
present at the time of examination, her symptoms have been
progressing. Extensive workup had been undertaken for Tb
meningitis, Whipple disease, CJD, Lyme meningitis, fungal,
parasitic, vs. bacterial meningitis, mass, etc., which have all
returned unremarkable. The patient was found to have a positive
___ but negative dsDNA, anti-Ro, anti-La, anti-RNP, and anti-Sm
all negative.
Also, the patient since the coughing spell had contacted Dr.
___ to attempt to obtain an earlier appointment
for neurologic evaluation, but ___ was the earliest available.
On neuro ROS, the pt notes a mild usual headache which is 
tension
like non-throbbing, non-radiating bifrontal. She denies loss of
vision, blurred vision, diplopia, dysarthria, lightheadedness,
vertigo, tinnitus or hearing difficulty. She specifically denied
dysphagia noting only that she had the one coughing spell and 
had
some issues with drooling. Denies difficulties producing or
comprehending speech. Denies focal weakness, numbness,
parasthesiae. No bowel or bladder incontinence or retention.
On general review of systems, the pt denies recent fever or
chills. No night sweats or recent weight loss or gain. Denies
chest pain or tightness, palpitations. Denies nausea, vomiting,
diarrhea, constipation or abdominal pain. No recent change in
bowel or bladder habits. No dysuria. Denies arthralgias or
myalgias. Denies rash. 
 
Past Medical History:
 Extensive Neurologic workup between ___ and ___ between
___ please refer to Dischaarge summary by ___
on WED ___
- Migraines bitemporal in distribution (lifelong)
- COPD
- systolic CHF
- hypothyroidism
- hypotension
- s/p frontal lobe biopsy in ___ at ___
- s/p Hemorrhoidectomy
- s/p tonsillectomy
- s/p tubal ligation
- s/p deviated septum correction
- s/p PEG placement/removal 
 
Social History:
___
Family History:
- Father was alcoholic with possible bipolar disorder.
- Mother died from breast cancer at ___ years old.
- Sister w/ hypothyroidism
- Daughter w/ carcinoid tumor
- No history of movement disorder or neurologic disorder in the 
family. 
 
Physical Exam:
ADMISSION EXAM: 
Temp=97.8F, HR=76, BP=131/73, RR=18, SaO2=98% RA
General: Awake, cooperative, NAD, making forced exhalation
against closed mouth sounds, similar to those seen in ___
while inpatient.
HEENT: NC/AT, lower mouth curled below the upper teeth, MMM, no
drooling present at the time of evaluation.
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: CTABL, some rhonchorous sounds likely transmitted 
from
the upper airway
Cardiac: RRR, no murmurs
Abdomen: soft, nontender, nondistended
Extremities: no edema, pulses palpated
Skin: no rashes or lesions noted.
Neurologic:
-Mental Status: Alert, oriented to person, place, time ___, missed date as ___, and ancillary questions. Able to
relate history without difficulty. Language is fluent with
intact repetition and comprehension. Prosody is forced sounding
with some erratic vocal pacing. There were no paraphasic errors.
Pt. was able to name both high and low frequency objects. Able
to read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. Attentive, with
good knowledge of current events and past events, (missed
presidents of the ___ - answered ___ and ___. There was
no evidence of apraxia or neglect.
-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm, both directly and consentually; sluggishly
bilaterally. VFF to confrontation.
III, IV, VI: EOM with bilateral endgaze nystagmus and limited
elevation and depression noted. Saccadic intrusions noted in all
directions of gaze. No evidence of oculomasticatory myorhythmia
seen.
V: Facial sensation intact to light touch, temperature in all
distributions, and ___ strength noted bilateral in masseter
VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline, and is equal ___ strength
bilaterally as evidenced by tongue-in-cheek testing.
-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
Delt Bic ___ WrE FFl FE IO IP Quad Ham TA ___
L ___ 4+ ___ 4+
R ___ 4+ ___ 4+
-DTRs:
___ Pat Ach
L ___ 4 4 ___ beats)
R ___ 4 4 ___ beats)
- Plantar response was flexor bilaterally with withdrawls
- Pectoralis Jerk and Crossed Adductors are present.
-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense throughout. No deficit to proprioception in
either foot ___ digit bilaterally. No extinction to DSS.
-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.
-Gait: Good initiation. Narrow-based, some limitation of stride
and arm swing. Able to walk on toes and heels without ataxia.
Unable to walk in tandem without falling to either side. Romberg
absent. 

DISCHARGE EXAM: The patient is awake and alert. She has her 
orofacial grimacing movements which are sometimes triggered by 
stress, and can be volitionally supressed by the patient if you 
ask her to try to stop doing the movement. This is somewhat 
improved when her dentures are in. She is able to ambulate. Her 
strength is ___.
 
Pertinent Results:
ADMISSION LABS: 
___ 09:40PM BLOOD WBC-12.8*# RBC-5.34# Hgb-15.0# Hct-47.1# 
MCV-88 MCH-28.1 MCHC-31.8 RDW-14.1 Plt ___
___ 09:40PM BLOOD Neuts-73.5* ___ Monos-4.0 Eos-1.3 
Baso-0.6
___ 09:40PM BLOOD ___ PTT-32.1 ___
___ 09:40PM BLOOD Glucose-105* UreaN-22* Creat-0.9 Na-138 
K-4.3 Cl-103 HCO3-22 AnGap-17
___ 09:40PM BLOOD ALT-49* AST-32 CK(CPK)-47 AlkPhos-106* 
TotBili-0.6
___ 05:20AM BLOOD CK-MB-2 cTropnT-<0.01
___ 09:40PM BLOOD Lipase-38
___ 09:40PM BLOOD Albumin-4.5 Calcium-9.6 Phos-3.4 Mg-2.1
___ 05:20AM BLOOD TSH-10*
___ 08:44AM BLOOD TSH-8.0*
___ 05:20AM BLOOD Free T4-0.96
___ 08:44AM BLOOD T3-65*
___ 10:09PM BLOOD Lactate-1.4 K-4.1
___ 05:20PM BLOOD PARANEOPLASTIC AUTOANTIBODY 
EVALUATION-PND

URINE: 
___ 04:25AM URINE Color-Yellow Appear-Clear Sp ___
___ 04:25AM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-NEG

IMAGING: 
CXR ___: No acute cardiopulmonary process.

CT HEAD ___: 1.   Irregular hyperdensity in region of known 
left cavernous sinus meningioma.  No new mass lesion. 2.  No 
acute intracranial hemorrhage or mass effect. The study and the 
report were reviewed by the staff radiologist.

CT ABD ___. 1.4 cm hypervascular lesion in the right hepatic lobe favored 
to represent a benign lesion such as a hemangioma, but is 
technically indeterminant on this exam.  Therefore, follow-up 
imaging with Eovist MR in 3 months time is recommended. 
2. Diffuse hepatic steatosis. 
3. Colonic diverticulosis. 
4. Small mural lesion in the wall of the gallbladder may 
represent focal adenomyomatosis (as is seen at the fundus), but 
this is uncertain; this can be followed on the subsequent MRI. 
5.  2.2 cm simple appearing cyst in the left adnexa likely 
arising from the left ovary for which follow-up evaluation with 
pelvic ultrasound in ___ years time is recommended. 

CT CHEST ___: 
1.  Multiple bilateral subpleural nodules ranging up to 6 mm, 
warrant followup in six months. 
2.  There is no lymphadenopathy. 
3.  Centrilobular and paraseptal emphysema are moderate. 
4.  Right breast nodule warrants dedicated mammography for 
further characterization. 
5.  Abdominal finding will be described in concurrent CT abdomen 
and pelvis. 

EEG ___: IMPRESSION: Normal extended routine EEG in 
wakefulness and drowsiness. There were no focal abnormalities or 
epileptiform features.

Video Swallow ___. Aspiration and penetration with thin and nectar thick 
liquids.   
2.  Penetration with cookie and pureed boluses.   

DISCHARGE LABS
___ 06:00AM BLOOD WBC-10.2 RBC-4.61 Hgb-13.5 Hct-41.1 
MCV-89 MCH-29.3 MCHC-32.9 RDW-14.4 Plt ___
___ 06:00AM BLOOD Glucose-100 UreaN-21* Creat-0.8 Na-136 
K-4.3 Cl-98 HCO3-30 AnGap-12
___ 05:20AM BLOOD ALT-43* AST-30 CK(CPK)-82 AlkPhos-88 
TotBili-0.7
___ 06:00AM BLOOD Calcium-9.2 Phos-4.0 Mg-2.5
___ 08:44AM BLOOD TSH-8.0*
___ 05:20AM BLOOD TSH-10*
___ 08:44AM BLOOD T3-65*
___ 05:20PM BLOOD PARANEOPLASTIC AUTOANTIBODY 
EVALUATION-PND
 
Brief Hospital Course:
Ms. ___ is a ___ year-old woman with COPD, CHF and an as of 
yet undiagnosed progressive neurological illness with facial 
movements, limited eye movements, most notably with convergence, 
elevation and depression, gait intability, and 
drooling/swallowing issues concerning for dystonia. This is 
similar to the symptoms she was exhibiting for her admission to 
the neurology service in ___.  However, on her prior admission 
she made a remarkable recovery with fentayl and propofol given 
for her EGD procedure. By the time of discharge she had normal 
swallowing, only very minimally limited upgaze and a fluid gait. 
Per the patient this decline started a week ago, but got 
significantly worse 2 days ago. She was admitted for swallow 
eval and trial of medications. Diagnosis still remained unclear. 
PSP is still on the differential, however, the time course of 
the disease does not fit exactly as patients would not be 
expected to improve. Other things on the differential include 
oro-facial dystonia, or paraneoplastic syndrome. OPMD was 
brought up by ENT but does not fit her clinical picture. Going 
foward, the patient warrents further work up with FDG-PET scan, 
and further medication trials. EEG unremarkable. Paraneoplastic 
panel was sent but pending at time of discharge.

To try to treat possible dystonia, trial of Valium 5mg was 
initiated but the patient showed no improvement. Trial of a 
fentanyl patch showed potential improvement but increased 
somnolence, so this was DCed. She was begun on ___ tab Sinemet 
TID on ___ given the possibility of PSP, with plans to 
increase to 1 tab TID in 1 week if the patient was tolerating 
the medication trial. The patient was also started on TID 
guaifenisen-codeine since she complained that one reason she 
made these dystonic movements was a feeling of irritation in the 
back of her thraoy

# NEURO: Unknown diagnosis, possibly atypical PSP, vs a type of 
oropharyngeal dystonia
- f/u serum paraneoplastic panel (pending at discharge)
- continue sinemet given some features of PSP, if the patient is 
tolerating this medication well, please increase simemet dose on 
___ to 1 tab TID
- will need outpatient FDG-PET scan as an outpatient
- outpatient follow up with Dr. ___ in Neurology, as well 
as Movement disorder specialists. 

# CARDS: the patient was continued on home metoprolol and 
aspirin

# ENDOCRINE: she has known hypothyroidism, TSH was 8 in the 
hosptial, touched base with endocrine fellow, plan to recheck 
TSH in 4 weeks prior to adjusting dose of synthroid. For now she 
was continued on prior dose of synthroid.
- repeat TSH on ___, if abnormal, obtain endocrine 
consultation and adjust levothyroxine as needed

# Multiple nodules: needs outpatient follow up for lung nodules, 
breast nodules, liver vascular lesion, gall bladder lesion, L 
adnexal mass which were seen on CT torso.
- obtain Evoist MRI abd in 3 months to evaluate liver and 
gallbladder findings
- breast mammogram scheduled at ___ for ___. Prior to her 
appointment with Radiology, PLEASE obtain prior breast ___ 
films and BRING THEM to the appointment for the breast 
specialists to review.
- repeat CT chest in 6 months to eval lung findings
- pelvic ultrasound in ___ year to follow up adenxal finding

# FEN: continue tube feeds per Nutrition recs and modified diet 
as recommended by Swallow
- The patient needs ongoing nutrition consultation at rehab, and 
if she is able to take more PO, her tube feeds could be 
decreased in the future
- Ongoing Swallow therapy and eval at rehab
- She will need teaching on how to prep a modified diet (pureed, 
nectar thickened liquids), and how to admister tube feeds

# CODE/CONTACT: Full Code (confirmed with patient); daughter
___ ___

TRANSITIONAL ISSUES
- f/u serum paraneoplastic panel (pending at discharge)
- continue sinemet given some features of PSP, if the patient is 
tolerating this medication well, please increase simemet dose on 
___ to 1 tab TID
- will need outpatient FDG-PET scan as an outpatient
- outpatient follow up with Dr. ___ in Neurology, as well 
as Movement disorder specialists. 
- repeat TSH on ___, if abnormal, obtain endocrine 
consultation and adjust levothyroxine as needed
- obtain Evoist MRI abd in 3 months to evaluate liver and 
gallbladder findings
- breast mammogram scheduled at ___ for ___. Prior to her 
appointment with Radiology, PLEASE obtain prior breast ___ 
films and BRING THEM to the appointment for the breast 
specialists to review.
- repeat CT chest in 6 months to eval lung findings
- pelvic ultrasound in ___ year to follow up adenxal finding
- The patient needs ongoing nutrition consultation at rehab, and 
if she is able to take more PO, her tube feeds could be 
decreased in the future
- Ongoing Swallow therapy and eval at rehab
- She will need teaching on how to prep a modified diet (pureed, 
nectar thickened liquids), and how to admister tube feeds
- ___ and OT
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
2. Levothyroxine Sodium 125 mcg PO DAILY 
3. Metoprolol Tartrate 25 mg PO BID 
4. Tiotropium Bromide 1 CAP IH DAILY 
5. Aspirin 81 mg PO DAILY 
6. ZyrTEC (cetirizine) 10 mg oral daily 
7. Klor-Con 10 (potassium chloride) 10 mEq oral BID 
8. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
3. Levothyroxine Sodium 125 mcg PO DAILY 
4. Metoprolol Tartrate 25 mg PO BID 
5. Multivitamins 1 TAB PO DAILY 
6. Tiotropium Bromide 1 CAP IH DAILY 
7. ZyrTEC (cetirizine) 10 mg oral daily 
8. Senna 1 TAB PO BID:PRN constipation 
9. Guaifenesin-CODEINE Phosphate 10 mL PO Q8H 
10. Docusate Sodium (Liquid) 100 mg PO BID 
11. Carbidopa-Levodopa (___) 0.5 TAB PO TID 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis
1. oropharnygeal dystonia of unknown etiology, possibly PSP

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear. Ms. ___, 

It was a pleasure taking care of you while you were admitted to 
___. You were admitted because of worsening in your 
swallowing. We did a trial of valium and then fentanyl patch, 
which did not help your symptoms. You were started on a sinement 
trial. You need continued outpatient follow up for further 
medication trials for your symptoms. You will also need a PET 
scan as an outpatient given the possibility of PSP.  You also 
need outpatient follow up for your breast, lung, and abdominal 
findings seen incidentally on imagaing here.

It is important that you take all medications as prescribed, and 
keep all follow up appointments.
 
Followup Instructions:
___